US04925838
To a solution of (2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-2-(2-oxoimidazolidin-1-yl)methylpyrrolidine (1.84 g) in dimethylformamide (40 ml) was added potassium thioacetate (0.95 g) and the mixture was stirred at 70°-80° C. for 2 hours. The reaction mixture was poured into ice-water (200 ml) and extracted 3 times with ethyl acetate (100 ml). The extract was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo. The resulting residue was chromatographed on silica gel (100 g) eluting with a mixture of chloroform and methanol (9:1 V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4S)-4-acetylthio-1-(4-nitrobenzyloxycarbonyl)-2-(2-oxoimidazolidin-1-yl)methylpyrrolidine (1.23 g).

reactant | (2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-2-(2-oxoimidazolidin-1-yl)methylpyrrolidine | 1.84 g | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C(NCC1)=O | C17H22N4O8S
reactant | potassium thioacetate | 0.95 g | C(C)(=S)[O-].[K+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | (2S,4S)-4-acetylthio-1-(4-nitrobenzyloxycarbonyl)-2-(2-oxoimidazolidin-1-yl)methylpyrrolidine | 1.23 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C(NCC1)=O | C18H22N4O6S
